US07786040B2
Methyl 4-cyclopropyl-1,2,3-thiadiazole-5-carboxylate (35 g; 190 mmols) was dissolved in methanol (150 ml), and an aqueous solution (150 ml) of sodium hydroxide (15 g; 360 mmols) was added dropwise thereto over 30 minutes under cooling in an ice-bath. After completion of the dropwise addition, the mixture was stirred for 2 hours at room temperature, and methanol was evaporated under reduced pressure, followed by washing with ethyl acetate. The aqueous layer was acidified by using concentrated hydrochloric acid, and was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. The residue was washed with a mixed solvent of hexane-ethyl acetate to thereby obtain 28 g of 4-cyclopropyl-1,2,3-thiadiazole-5-carboxylic acid.

reactant | Methyl 4-cyclopropyl-1,2,3-thiadiazole-5-carboxylate | 190 mmols, 35 g | C1(CC1)C=1N=NSC1C(=O)OC | C7H8N2O2S
reactant | sodium hydroxide | 360 mmols, 150 ml, 15 g | [OH-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 4-cyclopropyl-1,2,3-thiadiazole-5-carboxylic acid | 28 g, Yield: 86% | C1(CC1)C=1N=NSC1C(=O)O | C6H6N2O2S
